US05221671
6-Acetyl-2-(2-bromopropionylamino)-3-(2-chlorobenzoyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine
13.3 g of toluene and 3.66 liters of water were added to 600 g of 2-amino-3-(2-chlorobenzoyl)-6-acetyl-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine, to which 301 g of sodium hydrogencarbonate was further added. While heating to 60° C., 301 ml of 2-bromopropionyl bromide was dropped into the solution. Further, 170 g of sodium hydrogencarbonate and 170 ml of 2-bromopropionyl bromide were added in order to complete the reaction. After cooling down to room temperature, 500 g of sodium hydrogencarbonate was added, after which the organic phase was separated. The aqueous phase was extracted twice with ethyl acetate, followed by combination with the organic phase, washing with water and drying with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resultant solid matter was washed with ether to obtain 800 g of the intended product.

reactant | 2-amino-3-(2-chlorobenzoyl)-6-acetyl-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 600 g | NC1=C(C2=C(CN(CC2)C(C)=O)S1)C(C1=C(C=CC=C1)Cl)=O | C16H15ClN2O2S
reactant | sodium hydrogencarbonate | 301 g | C(O)([O-])=O.[Na+]
reactant | 2-bromopropionyl bromide | 301 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | sodium hydrogencarbonate | 170 g | C(O)([O-])=O.[Na+]
reactant | 2-bromopropionyl bromide | 170 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | sodium hydrogencarbonate | 500 g | C(O)([O-])=O.[Na+]
catalyst | toluene | 13.3 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 3.66 liters | O | H2O
product | 6-Acetyl-2-(2-bromopropionylamino)-3-(2-chlorobenzoyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 800 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)NC(C(C)Br)=O)C(C2=C(C=CC=C2)Cl)=O | C19H18BrClN2O3S
